* Schematics Netlist *



Kn_K1         L_L1 L_L2     0.999
L_L2         0 4  0.5mH  
L_L1         2 0  0.5H  
R_R2         4 6  0.5  
R_RL         6 7  150  
V_V2         7 0 0V
R_R1         1 2  0.5  
V_Sin         1 0  
+SIN 0 120 60 0 0 0
