* Schematics Netlist *



V_V1         a 0 24V
R_R1         b $N_0001  10  
R_R2         $N_0001 0  12  
R_R3         $N_0001 $N_0002  4  
R_R4         $N_0002 a  24  
X_H1    a b $N_0002 0 3_H1 

.subckt 3_H1 1 2 3 4  
H_H1         3 4 VH_H1 4
VH_H1         1 2 0V
.ends 3_H1
